US04714710
Sodium (2.18 g, 35 mmol) was added to diethyl 4-ethoxyphenylmalonate (26.6 g, 95 mmol) dissolved in dioxane (100 ml) and refluxed until the sodium had dissolved. Chloromethyl(4-fluoro-3-phenoxybenzyl)ether (25.4 g, 95 mmol) was added, dropwise, at 40°-50° C. and then heated under reflux for 3 hours. The mixture was added to ice-water, extracted three times with ether, the extracts washed with water, dried over magnesium sulphate and evaporated. After chromatography on silica-gel, using toluene as the eluent, there was obtained 25.3 g of diethyl 2-(4-ethoxyphenyl)-2-(4-fluoro-3-phenoxybenzyloxymethyl)malonate (52% of theory). This was then reduced in a similar manner to Example 1 using lithium aluminium hydride to give crude 2-(4-ethoxyphenyl)-2-(4-fluoro-3-phenoxybenzyloxymethyl)propane-1,3-diol.

reactant | Sodium | 35 mmol, 2.18 g | [Na] | Na
reactant | diethyl 4-ethoxyphenylmalonate | 95 mmol, 26.6 g | C(C)OC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C15H20O5
reactant | Chloromethyl(4-fluoro-3-phenoxybenzyl)ether | 95 mmol, 25.4 g | ClCOCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C14H12ClFO2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | diethyl 2-(4-ethoxyphenyl)-2-(4-fluoro-3-phenoxybenzyloxymethyl)malonate | 25.3 g, 52% | C(C)OC1=CC=C(C=C1)C(C(=O)OCC)(C(=O)OCC)COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C29H31FO7
